US08610345B2
Next, a mixed solution of 4.9 g of 1-bromo-6-(4-chlorophenyl)pyrene, 3.7 g of 2-biphenylboronic acid, 8.0 g of tripotassium phosphate, 1.2 g of tetrabutylammonium bromide, 84 mg of palladium acetate and 125 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 130° C. for 6 hours. The solution was cooled to room temperature and 100 ml of water was poured into the solution, followed by filtration. The resulting solid was washed with 50 ml of methanol, dissolved in 100 ml of dichloromethane, dried over magnesium sulfate, filtered and then evaporated. The concentrate was purified by silica gel column chromatography and then vacuum-dried to obtain 3.6 g of 1-(biphenyl-2-yl)-6-(4-chlorophenyl)pyrene.

reactant | 1-bromo-6-(4-chlorophenyl)pyrene | 4.9 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl | C22H12BrCl
reactant | 2-biphenylboronic acid | 3.7 g | C=1(C(=CC=CC1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | tripotassium phosphate | 8.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 1.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 84 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 100 ml | O | H2O
product | 1-(biphenyl-2-yl)-6-(4-chlorophenyl)pyrene | 3.6 g | C1(=C(C=CC=C1)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)Cl)C3=CC=CC=C3 | C34H21Cl
